US08211925B2
Synthesis of Methyl 3-{(1S)-2-methoxy-(1-methylethyl)oxy}-5-{[(2-methylphenyl)methyl]oxy}benzoate
A stirred suspension of methyl 3-hydroxy-5-{[(2-methylphenyl)methyl]oxy}benzoate (15.3 g, 56.25 mmol) and triphenyl phosphine (14.4 g, 55 mmol) in dry chloromethane (900 ml) was cooled in an ice-bath and diisopropyl azodicarboxylate (11.88 ml, 55 mmol) was added dropwise. The reaction mixture was stirred at 0-5° C. for 30 minutes and (R)-methoxy-propan-2-ol was added dropwise. The reaction mixture was stirred at ambient temperature for 16 hours, and filtered through diatomaceous earth. The filtrate was evaporated and purified by column chromatograph on silica gel eluting with 10% ethyl acetate in iso-hexane to give the desired compound (10.7 g, 55%).

reactant | methyl 3-hydroxy-5-{[(2-methylphenyl)methyl]oxy}benzoate | 56.25 mmol, 15.3 g | OC=1C=C(C(=O)OC)C=C(C1)OCC1=C(C=CC=C1)C | C16H16O4
reactant | triphenyl phosphine | 55 mmol, 14.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 55 mmol, 11.88 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | (R)-methoxy-propan-2-ol | COC[C@@H](C)O | C4H10O2
solvent | chloromethane | 900 ml | ClC | CH3Cl
product | Methyl 3-{(1S)-2-methoxy-(1-methylethyl)oxy}-5-{[(2-methylphenyl)methyl]oxy}benzoate | 10.7 g, 55% | COC[C@H](C)OC=1C=C(C(=O)OC)C=C(C1)OCC1=C(C=CC=C1)C | C20H24O5
